US09422331B2
To a solution of (3S,4S)-5-(4-acetyl-benzoyl)-3-amino-4-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride (0.39 g, 1.03 mmol) in N,N-dimethylformamide (6.0 mL) at 0° C. was added (S)-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid (0.23 g, 1.13 mmol), N,N-diisopropylethylamine (0.72 mL, 4.12 mmol) and 0-benzotriazol-1-yl-N,N,N′N′-tetramethyluronium hexafluorophosphate (0.43 g, 1.13 mmol), the reaction was stirred for 2 h. The reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (2×40 mL). The organic layers were combined, washed with a saturated aqueous solution of sodium hydrogen carbonate (1×20 mL), water (1×25 mL), dried over sodium sulfate, filtered through a plug of silica gel and concentrated in vacuo to give {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester which was used in the subsequent step without further purification (0.53 g, 98%).

reactant | (3S,4S)-5-(4-acetyl-benzoyl)-3-amino-4-methyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one hydrochloride | 1.03 mmol, 0.39 g | Cl.C(C)(=O)C1=CC=C(C(=O)N2C3=C(NC([C@H]([C@@H]2C)N)=O)C=CC=C3)C=C1
reactant | (S)-2-(tert-butoxycarbonyl-methyl-amino)-propionic acid | 1.13 mmol, 0.23 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 4.12 mmol, 0.72 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | {(S)-1-[(2S,3S)-1-(4-acetyl-benzoyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H]1C(NC2=C(N([C@H]1C)C(C1=CC=C(C=C1)C(C)=O)=O)C=CC=C2)=O)=O)=O | C28H34N4O6
